*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.12
*** -----------------------------------------------------
***     Extraction Engine: KPEX/2.5D
***     Technology: ihp_sg13g2
***     Date: 2026-09-19 12:55:01
*********************************************************

.SUBCKT g1_bgr b1b c2 d1 d2 d3 d4 d5 det dvbe iptat kick n1 pbias pcasc r4 r4n
+ vb2 vbe vbe3 vd1 vd2 vdd vref vss
R$1 vss \$23 vss 0.5 rhigh l=49 ps=0 b=0 m=1
R$2 \$12 det vss 0.5 rhigh l=49 ps=0 b=0 m=1
R$3 \$13 \$24 vss 0.5 rhigh l=49 ps=0 b=0 m=1
R$4 \$14 \$24 vss 0.5 rhigh l=49 ps=0 b=0 m=1
R$5 \$14 \$26 vss 0.5 rhigh l=49 ps=0 b=0 m=1
R$6 \$15 \$26 vss 0.5 rhigh l=49 ps=0 b=0 m=1
R$7 \$15 \$27 vss 0.5 rhigh l=49 ps=0 b=0 m=1
R$8 \$16 \$27 vss 0.5 rhigh l=49 ps=0 b=0 m=1
R$9 \$16 \$21 vss 0.5 rhigh l=49 ps=0 b=0 m=1
R$10 \$12 \$25 vss 0.5 rhigh l=49 ps=0 b=0 m=1
R$11 \$13 \$25 vss 0.5 rhigh l=49 ps=0 b=0 m=1
R$12 \$17 \$22 vss 0.5 rhigh l=49 ps=0 b=0 m=1
R$13 \$18 \$22 vss 0.5 rhigh l=49 ps=0 b=0 m=1
R$14 \$18 \$23 vss 0.5 rhigh l=49 ps=0 b=0 m=1
R$15 \$17 \$21 vss 0.5 rhigh l=49 ps=0 b=0 m=1
R$16 vss dvbe vss 1 rppd l=51.5 ps=0 b=0 m=1
R$17 \$7 vref vss 1 rppd l=52.5 ps=0 b=0 m=1
R$18 \$2 \$36 vss 1 rppd l=52.5 ps=0 b=0 m=1
R$19 \$7 \$36 vss 1 rppd l=52.5 ps=0 b=0 m=1
R$20 \$2 \$37 vss 1 rppd l=52.5 ps=0 b=0 m=1
R$21 \$8 \$37 vss 1 rppd l=52.5 ps=0 b=0 m=1
R$22 \$8 vbe3 vss 1 rppd l=52.5 ps=0 b=0 m=1
R$23 \$6 vb2 vss 1 rppd l=48 ps=0 b=0 m=1
R$24 \$9 vd1 vss 1 rppd l=48 ps=0 b=0 m=1
R$25 \$6 \$19 vss 1 rppd l=48 ps=0 b=0 m=1
R$26 \$9 \$19 vss 1 rppd l=48 ps=0 b=0 m=1
M$27 kick det vdd vdd sg13_hv_pmos L=0.5U W=2U AS=0.68P AD=0.68P PS=4.68U
+ PD=4.68U rfmode=0
M$28 r4n r4 vdd vdd sg13_hv_pmos L=0.5U W=2U AS=0.68P AD=0.68P PS=4.68U
+ PD=4.68U rfmode=0
M$29 vbe r4 b1b vss sg13_hv_nmos L=0.5U W=2U AS=0.68P AD=0.68P PS=4.68U
+ PD=4.68U rfmode=0
M$30 pbias kick vss vss sg13_hv_nmos L=4U W=1U AS=0.34P AD=0.34P PS=2.68U
+ PD=2.68U rfmode=0
M$31 kick det vss vss sg13_hv_nmos L=0.5U W=1U AS=0.34P AD=0.34P PS=2.68U
+ PD=2.68U rfmode=0
M$32 r4n r4 vss vss sg13_hv_nmos L=0.5U W=1U AS=0.34P AD=0.34P PS=2.68U
+ PD=2.68U rfmode=0
M$33 b1b r4n vss vss sg13_hv_nmos L=0.5U W=1U AS=0.34P AD=0.34P PS=2.68U
+ PD=2.68U rfmode=0
M$34 n1 vb2 vbe vss sg13_hv_nmos L=1U W=10U AS=3.4P AD=3.4P PS=20.68U PD=20.68U
+ rfmode=0
M$35 c2 vb2 pcasc vss sg13_hv_nmos L=1U W=10U AS=3.4P AD=3.4P PS=20.68U
+ PD=20.68U rfmode=0
M$36 vbe vb2 n1 vss sg13_hv_nmos L=1U W=10U AS=3.4P AD=3.4P PS=20.68U PD=20.68U
+ rfmode=0
M$37 pcasc vb2 c2 vss sg13_hv_nmos L=1U W=10U AS=3.4P AD=3.4P PS=20.68U
+ PD=20.68U rfmode=0
M$38 d1 pbias vdd vdd sg13_hv_pmos L=4U W=5U AS=1.7P AD=1.7P PS=10.68U
+ PD=10.68U rfmode=0
M$39 d2 pbias vdd vdd sg13_hv_pmos L=4U W=5U AS=1.7P AD=1.7P PS=10.68U
+ PD=10.68U rfmode=0
M$40 d4 pbias vdd vdd sg13_hv_pmos L=4U W=5U AS=1.7P AD=1.7P PS=10.68U
+ PD=10.68U rfmode=0
M$41 d5 pbias vdd vdd sg13_hv_pmos L=4U W=5U AS=1.7P AD=1.7P PS=10.68U
+ PD=10.68U rfmode=0
M$42 det pbias vdd vdd sg13_hv_pmos L=4U W=5U AS=1.7P AD=1.7P PS=10.68U
+ PD=10.68U rfmode=0
M$43 d3 pbias vdd vdd sg13_hv_pmos L=4U W=5U AS=1.7P AD=1.7P PS=10.68U
+ PD=10.68U rfmode=0
M$44 d3 pbias vdd vdd sg13_hv_pmos L=4U W=5U AS=1.7P AD=1.7P PS=10.68U
+ PD=10.68U rfmode=0
M$45 d5 pbias vdd vdd sg13_hv_pmos L=4U W=5U AS=1.7P AD=1.7P PS=10.68U
+ PD=10.68U rfmode=0
M$46 d4 pbias vdd vdd sg13_hv_pmos L=4U W=5U AS=1.7P AD=1.7P PS=10.68U
+ PD=10.68U rfmode=0
M$47 d2 pbias vdd vdd sg13_hv_pmos L=4U W=5U AS=1.7P AD=1.7P PS=10.68U
+ PD=10.68U rfmode=0
M$48 d1 pbias vdd vdd sg13_hv_pmos L=4U W=5U AS=1.7P AD=1.7P PS=10.68U
+ PD=10.68U rfmode=0
M$49 det pbias vdd vdd sg13_hv_pmos L=4U W=5U AS=1.7P AD=1.7P PS=10.68U
+ PD=10.68U rfmode=0
M$50 vb2 pcasc d5 d5 sg13_hv_pmos L=4U W=10U AS=3.4P AD=3.4P PS=20.68U
+ PD=20.68U rfmode=0
M$51 vref pcasc d3 d3 sg13_hv_pmos L=4U W=10U AS=3.4P AD=3.4P PS=20.68U
+ PD=20.68U rfmode=0
M$52 n1 pcasc d1 d1 sg13_hv_pmos L=4U W=10U AS=3.4P AD=3.4P PS=20.68U PD=20.68U
+ rfmode=0
M$53 iptat pcasc d4 d4 sg13_hv_pmos L=4U W=10U AS=3.4P AD=3.4P PS=20.68U
+ PD=20.68U rfmode=0
M$54 pbias pcasc d2 d2 sg13_hv_pmos L=4U W=10U AS=3.4P AD=3.4P PS=20.68U
+ PD=20.68U rfmode=0
Q$55 vss vss vss vss npn13G2 we=0.07 le=0.9 Nx=1 m=1
Q$56 vbe vbe vss vss npn13G2 we=0.07 le=0.9 Nx=1 m=1
Q$57 vss vss vss vss npn13G2 we=0.07 le=0.9 Nx=1 m=1
Q$58 vss vss vss vss npn13G2 we=0.07 le=0.9 Nx=1 m=1
Q$59 vss vss vss vss npn13G2 we=0.07 le=0.9 Nx=1 m=1
Q$60 vbe3 vbe3 vss vss npn13G2 we=0.07 le=0.9 Nx=1 m=1
Q$61 vss vss vss vss npn13G2 we=0.07 le=0.9 Nx=1 m=1
Q$62 vd2 vd2 vss vss npn13G2 we=0.07 le=0.9 Nx=1 m=1
Q$63 vss vss vss vss npn13G2 we=0.07 le=0.9 Nx=1 m=1
Q$64 vss vss vss vss npn13G2 we=0.07 le=0.9 Nx=1 m=1
Q$65 vss vss vss vss npn13G2 we=0.07 le=0.9 Nx=1 m=1
Q$66 vss vss vss vss npn13G2 we=0.07 le=0.9 Nx=1 m=1
Q$67 vbe b1b vss vss npn13G2 we=0.07 le=0.9 Nx=1 m=1
Q$68 c2 vbe dvbe vss npn13G2 we=0.07 le=0.9 Nx=1 m=1
Q$69 c2 vbe dvbe vss npn13G2 we=0.07 le=0.9 Nx=1 m=1
Q$70 c2 vbe dvbe vss npn13G2 we=0.07 le=0.9 Nx=1 m=1
Q$71 c2 vbe dvbe vss npn13G2 we=0.07 le=0.9 Nx=1 m=1
Q$72 c2 vbe dvbe vss npn13G2 we=0.07 le=0.9 Nx=1 m=1
Q$73 c2 vbe dvbe vss npn13G2 we=0.07 le=0.9 Nx=1 m=1
Q$74 c2 vbe dvbe vss npn13G2 we=0.07 le=0.9 Nx=1 m=1
Q$75 vd1 vd1 vd2 vss npn13G2 we=0.07 le=0.9 Nx=1 m=1
Q$76 c2 vbe dvbe vss npn13G2 we=0.07 le=0.9 Nx=1 m=1
R$77 \$4 pbias vss 1 rppd l=50 ps=0 b=0 m=1
R$78 \$11 \$34 vss 1 rppd l=50 ps=0 b=0 m=1
R$79 \$10 \$34 vss 1 rppd l=50 ps=0 b=0 m=1
R$80 \$3 \$31 vss 1 rppd l=50 ps=0 b=0 m=1
R$81 \$10 \$33 vss 1 rppd l=50 ps=0 b=0 m=1
R$82 \$5 \$31 vss 1 rppd l=50 ps=0 b=0 m=1
R$83 \$5 \$30 vss 1 rppd l=50 ps=0 b=0 m=1
R$84 \$4 \$30 vss 1 rppd l=50 ps=0 b=0 m=1
R$85 \$3 \$33 vss 1 rppd l=50 ps=0 b=0 m=1
R$86 \$11 pcasc vss 1 rppd l=50 ps=0 b=0 m=1
Cext_1 \$10 \$11 15.5101a
Cext_2 \$10 \$3 19.0458a
Cext_3 \$10 vss 100.194a
Cext_4 \$10 VSUBS 481.031a
Cext_5 \$11 \$12 2.09203a
Cext_6 \$11 \$3 0.524321a
Cext_7 \$11 vss 100.194a
Cext_8 \$11 VSUBS 493.568a
Cext_9 \$12 \$13 14.2084a
Cext_10 \$12 vss 62.783a
Cext_11 \$12 VSUBS 309.014a
Cext_12 \$13 \$14 14.2084a
Cext_13 \$13 vss 62.783a
Cext_14 \$13 VSUBS 297.347a
Cext_15 \$14 \$15 14.2084a
Cext_16 \$14 vss 62.783a
Cext_17 \$14 VSUBS 297.347a
Cext_18 \$15 \$16 14.2084a
Cext_19 \$15 vss 62.783a
Cext_20 \$15 VSUBS 297.347a
Cext_21 \$16 \$17 14.2084a
Cext_22 \$16 vss 71.2957a
Cext_23 \$16 VSUBS 295.974a
Cext_24 \$17 \$18 14.2084a
Cext_25 \$17 vss 63.3242a
Cext_26 \$17 VSUBS 297.347a
Cext_27 \$18 vss 81.0158a
Cext_28 \$18 VSUBS 297.347a
Cext_29 \$19 \$31 0.26116a
Cext_30 \$19 \$33 0.26116a
Cext_31 \$19 \$36 14.9703a
Cext_32 \$19 \$37 14.9703a
Cext_33 \$19 dvbe 159.131a
Cext_34 \$19 pbias 5.07141a
Cext_35 \$19 vb2 172.86a
Cext_36 \$19 vbe3 95.8794a
Cext_37 \$19 vd1 193.63a
Cext_38 \$19 vd2 410.357a
Cext_39 \$19 vref 95.1702a
Cext_40 \$19 vss 223.967a
Cext_41 \$19 VSUBS 1.72175f
Cext_42 \$2 \$3 694.791a
Cext_43 \$2 \$6 0.524321a
Cext_44 \$2 \$7 19.0458a
Cext_45 \$2 \$8 19.0458a
Cext_46 \$2 \$9 0.524321a
Cext_47 \$2 vss 501.967a
Cext_48 \$2 VSUBS 734.815a
Cext_49 \$21 \$22 14.2084a
Cext_50 \$21 \$27 14.2084a
Cext_51 \$21 b1b 0.735115a
Cext_52 \$21 vss 12.0025a
Cext_53 \$21 VSUBS 331.598a
Cext_54 \$22 \$23 14.2084a
Cext_55 \$22 b1b 0.735115a
Cext_56 \$22 vss 12.0025a
Cext_57 \$22 VSUBS 331.598a
Cext_58 \$23 b1b 0.735115a
Cext_59 \$23 vss 14.9704a
Cext_60 \$23 VSUBS 341.848a
Cext_61 \$24 \$25 14.2084a
Cext_62 \$24 \$26 14.2084a
Cext_63 \$24 b1b 0.735115a
Cext_64 \$24 det 0.541131a
Cext_65 \$24 vss 12.0025a
Cext_66 \$24 VSUBS 331.598a
Cext_67 \$25 b1b 0.735115a
Cext_68 \$25 det 18.2327a
Cext_69 \$25 vss 12.0025a
Cext_70 \$25 VSUBS 331.598a
Cext_71 \$26 \$27 14.2084a
Cext_72 \$26 b1b 0.735115a
Cext_73 \$26 det 0.167332a
Cext_74 \$26 vss 12.0025a
Cext_75 \$26 VSUBS 331.598a
Cext_76 \$27 b1b 0.735115a
Cext_77 \$27 vss 12.0025a
Cext_78 \$27 VSUBS 331.598a
Cext_79 \$3 \$4 0.524321a
Cext_80 \$3 \$5 19.0458a
Cext_81 \$3 \$6 31.1754a
Cext_82 \$3 \$7 12.6539a
Cext_83 \$3 \$8 12.6539a
Cext_84 \$3 \$9 30.9049a
Cext_85 \$3 vss 903.669a
Cext_86 \$3 VSUBS 1.48902f
Cext_87 \$30 \$31 15.5101a
Cext_88 \$30 dvbe 1.65454a
Cext_89 \$30 pbias 19.0458a
Cext_90 \$30 vb2 0.855051a
Cext_91 \$30 vss 24.3204a
Cext_92 \$30 VSUBS 527.822a
Cext_93 \$31 dvbe 1.65454a
Cext_94 \$31 pbias 0.524321a
Cext_95 \$31 vb2 5.91722a
Cext_96 \$31 vss 24.3204a
Cext_97 \$31 VSUBS 541.141a
Cext_98 \$33 \$34 15.5101a
Cext_99 \$33 b1b 0.120904a
Cext_100 \$33 pcasc 0.524321a
Cext_101 \$33 vbe3 2.26884a
Cext_102 \$33 vd1 5.91722a
Cext_103 \$33 vss 24.2823a
Cext_104 \$33 VSUBS 541.141a
Cext_105 \$34 b1b 0.247176a
Cext_106 \$34 pcasc 19.0458a
Cext_107 \$34 vbe3 2.29766a
Cext_108 \$34 vd1 0.855051a
Cext_109 \$34 vss 24.3204a
Cext_110 \$34 VSUBS 527.822a
Cext_111 \$36 \$37 4.91263a
Cext_112 \$36 dvbe 1.31773a
Cext_113 \$36 pbias 0.253448a
Cext_114 \$36 vref 19.777a
Cext_115 \$36 vss 103.246a
Cext_116 \$36 VSUBS 490.2a
Cext_117 \$37 dvbe 5.91722a
Cext_118 \$37 pbias 0.253448a
Cext_119 \$37 vbe3 19.777a
Cext_120 \$37 vd2 0.820484a
Cext_121 \$37 vss 91.632a
Cext_122 \$37 VSUBS 490.2a
Cext_123 \$4 \$5 15.5101a
Cext_124 \$4 vss 111.854a
Cext_125 \$4 VSUBS 490.996a
Cext_126 \$5 vss 100.194a
Cext_127 \$5 VSUBS 481.031a
Cext_128 \$6 \$7 15.5101a
Cext_129 \$6 vss 94.7854a
Cext_130 \$6 VSUBS 481.031a
Cext_131 \$7 vss 95.5187a
Cext_132 \$7 VSUBS 481.031a
Cext_133 \$8 \$9 15.5101a
Cext_134 \$8 vss 95.1057a
Cext_135 \$8 VSUBS 481.031a
Cext_136 \$9 vss 99.5028a
Cext_137 \$9 VSUBS 480.311a
Cext_138 b1b det 3.08988f
Cext_139 b1b kick 18.9647a
Cext_140 b1b pbias 847.105a
Cext_141 b1b pcasc 735.082a
Cext_142 b1b r4 332.534a
Cext_143 b1b r4n 197.625a
Cext_144 b1b vbe 741.197a
Cext_145 b1b vbe3 1.07019f
Cext_146 b1b vd1 42.3574a
Cext_147 b1b vd2 0.214735a
Cext_148 b1b vss 1.39679f
Cext_149 c2 det 1.09491a
Cext_150 c2 dvbe 14.8445f
Cext_151 c2 n1 1.78008f
Cext_152 c2 pbias 3.1973a
Cext_153 c2 pcasc 683.913a
Cext_154 c2 vb2 1.28399f
Cext_155 c2 vbe 407.234a
Cext_156 c2 vref 0.457024a
Cext_157 c2 vss 1.76096f
Cext_158 d1 d2 3.38132f
Cext_159 d1 d3 369.77a
Cext_160 d1 d4 105.35a
Cext_161 d1 d5 67.0643a
Cext_162 d1 det 66.6465a
Cext_163 d1 iptat 1.22759a
Cext_164 d1 kick 66.4272a
Cext_165 d1 n1 69.0247a
Cext_166 d1 pbias 5.54508f
Cext_167 d1 pcasc 539.684a
Cext_168 d1 r4 89.8574a
Cext_169 d1 r4n 66.3707a
Cext_170 d1 vb2 3.51936a
Cext_171 d1 vdd 478.72a
Cext_172 d1 vref 85.5231a
Cext_173 d1 vss 7.31884a
Cext_174 d2 d3 2.47943f
Cext_175 d2 d4 603.724a
Cext_176 d2 d5 62.4898a
Cext_177 d2 det 270.036a
Cext_178 d2 iptat 1.22759a
Cext_179 d2 kick 84.8402a
Cext_180 d2 n1 85.2692a
Cext_181 d2 pbias 1.59819f
Cext_182 d2 pcasc 541.399a
Cext_183 d2 r4 89.9071a
Cext_184 d2 r4n 66.4466a
Cext_185 d2 vb2 0.58192a
Cext_186 d2 vdd 478.512a
Cext_187 d2 vss 8.38671a
Cext_188 d3 d4 3.36401f
Cext_189 d3 d5 495.887a
Cext_190 d3 det 67.4106a
Cext_191 d3 iptat 1.22759a
Cext_192 d3 kick 66.5915a
Cext_193 d3 pbias 1.54168f
Cext_194 d3 pcasc 541.425a
Cext_195 d3 r4 89.9115a
Cext_196 d3 r4n 66.4676a
Cext_197 d3 vb2 86.7912a
Cext_198 d3 vdd 478.512a
Cext_199 d3 vref 69.0247a
Cext_200 d3 vss 1.8489a
Cext_201 d4 d5 5.71403f
Cext_202 d4 det 99.591a
Cext_203 d4 iptat 70.2523a
Cext_204 d4 kick 248.615a
Cext_205 d4 pbias 1.56219f
Cext_206 d4 pcasc 540.29a
Cext_207 d4 r4 90.2237a
Cext_208 d4 r4n 71.5847a
Cext_209 d4 vb2 0.238401a
Cext_210 d4 vdd 480.244a
Cext_211 d4 vss 13.0714a
Cext_212 d5 det 9.09587f
Cext_213 d5 iptat 1.22759a
Cext_214 d5 kick 86.0785a
Cext_215 d5 pbias 1.34059f
Cext_216 d5 pcasc 545.423a
Cext_217 d5 r4 241.428a
Cext_218 d5 r4n 170.512a
Cext_219 d5 vb2 69.4934a
Cext_220 d5 vdd 478.512a
Cext_221 d5 vss 9.92566a
Cext_222 det dvbe 1.47054a
Cext_223 det kick 10.5027f
Cext_224 det n1 2.03967a
Cext_225 det pbias 2.27172f
Cext_226 det pcasc 7.15985f
Cext_227 det r4 360.612a
Cext_228 det r4n 824.601a
Cext_229 det vb2 60.8768a
Cext_230 det vbe 32.2826a
Cext_231 det vbe3 34.4541a
Cext_232 det vdd 339.328a
Cext_233 det vss 783.982a
Cext_234 dvbe iptat 0.236884a
Cext_235 dvbe kick 0.311768a
Cext_236 dvbe n1 3.63074a
Cext_237 dvbe pbias 193.075a
Cext_238 dvbe pcasc 5.36919a
Cext_239 dvbe vb2 89.4959a
Cext_240 dvbe vbe 11.6494f
Cext_241 dvbe vbe3 15.8721a
Cext_242 dvbe vd1 0.145608a
Cext_243 dvbe vd2 156.801a
Cext_244 dvbe vref 4.6575f
Cext_245 dvbe vss 3.91955f
Cext_246 iptat n1 45.5207a
Cext_247 iptat pbias 6.1594a
Cext_248 iptat pcasc 975.203a
Cext_249 iptat vb2 6.11366f
Cext_250 iptat vbe 70.5206a
Cext_251 iptat vref 223.508a
Cext_252 iptat vss 289.493a
Cext_253 kick pbias 1.11756f
Cext_254 kick pcasc 12.9977a
Cext_255 kick r4 126.975a
Cext_256 kick r4n 7.98667f
Cext_257 kick vb2 3.0592a
Cext_258 kick vbe 0.356062a
Cext_259 kick vdd 152.428a
Cext_260 kick vss 519.69a
Cext_261 n1 pbias 6.39949a
Cext_262 n1 pcasc 4.83147f
Cext_263 n1 vb2 1.32414f
Cext_264 n1 vbe 1.91233f
Cext_265 n1 vref 6.41414a
Cext_266 n1 vss 116.638a
Cext_267 pbias pcasc 9.33416f
Cext_268 pbias r4 2.50831f
Cext_269 pbias r4n 732.455a
Cext_270 pbias vb2 1.54255f
Cext_271 pbias vbe 3.71289a
Cext_272 pbias vbe3 157.678a
Cext_273 pbias vd1 49.6104a
Cext_274 pbias vd2 147.156a
Cext_275 pbias vdd 3.85011f
Cext_276 pbias vref 213.907a
Cext_277 pbias vss 3.75278f
Cext_278 pcasc r4 2.77052a
Cext_279 pcasc r4n 2.04066a
Cext_280 pcasc vb2 3.71047f
Cext_281 pcasc vbe 953.297a
Cext_282 pcasc vbe3 313.659a
Cext_283 pcasc vref 2.31913f
Cext_284 pcasc vss 598.224a
Cext_285 r4 r4n 12.2762f
Cext_286 r4 vbe 285.464a
Cext_287 r4 vdd 83.346a
Cext_288 r4 vss 415.346a
Cext_289 r4n vbe 62.6373a
Cext_290 r4n vdd 158.562a
Cext_291 r4n vss 591.385a
Cext_292 vb2 vbe 1.27566f
Cext_293 vb2 vref 6.68835f
Cext_294 vb2 vss 708.188a
Cext_295 vbe vbe3 11.0316a
Cext_296 vbe vd1 10.5784a
Cext_297 vbe vd2 29.0277a
Cext_298 vbe vref 223.747a
Cext_299 vbe vss 5.2939f
Cext_300 vbe3 vd1 394.468a
Cext_301 vbe3 vd2 245.219a
Cext_302 vbe3 vss 1.39267f
Cext_303 vd1 vd2 2.03701f
Cext_304 vd1 vss 364.135a
Cext_305 vd2 vss 1.51724f
Cext_306 vref vss 480.6a
Cext_307 VSUBS b1b 4.41403f
Cext_308 VSUBS c2 4.95536f
Cext_309 VSUBS d1 2.31262f
Cext_310 VSUBS d2 2.22418f
Cext_311 VSUBS d3 2.35423f
Cext_312 VSUBS d4 2.28807f
Cext_313 VSUBS d5 2.73371f
Cext_314 VSUBS det 6.4979f
Cext_315 VSUBS dvbe 6.69786f
Cext_316 VSUBS iptat 1.94954f
Cext_317 VSUBS kick 3.02926f
Cext_318 VSUBS n1 2.16318f
Cext_319 VSUBS pbias 45.0447f
Cext_320 VSUBS pcasc 30.7628f
Cext_321 VSUBS r4 4.25325f
Cext_322 VSUBS r4n 2.48056f
Cext_323 VSUBS vb2 11.6562f
Cext_324 VSUBS vbe 8.8365f
Cext_325 VSUBS vbe3 1.77779f
Cext_326 VSUBS vd1 1.42461f
Cext_327 VSUBS vd2 1.56685f
Cext_328 VSUBS vdd 18.8574f
Cext_329 VSUBS vref 2.41436f
Cext_330 VSUBS vss 108.76f
.ENDS g1_bgr
