* G1_BGR bgr586 standalone fixture (same as sim/qualification/runs/bgr_one_draw_20260922_r1/disabled/nominal.cir,
* mismatch-parameter prints removed), source: ../g1_bgr586_pex.spice
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.include ../g1_bgr586_pex.spice
.option seed=44001 gmin=1e-15 abstol=1e-14 reltol=1e-5 vntol=1e-7
.global sub!
Vsub sub! 0 0
Vdd vdd 0 3.3
Vr4 r4 0 0
Xbgr vdd 0 r4 vref iptat pbias pcasc vbe dvbe g1_bgr
Vload iptat 0 1
Cload vref 0 1e-12
.control
set num_threads=1
set numdgt=15
set wr_singlescale
set wr_vecnames
op
echo "OP27 vref=$&v(vref) iptat=$&i(vload) idd=$&i(vdd) vbe=$&v(vbe) dvbe=$&v(dvbe) pbias=$&v(pbias) pcasc=$&v(pcasc)"
wrdata op27_pex.dat v(vref) i(vload) i(vdd) v(vbe) v(dvbe) v(pbias) v(pcasc)
dc temp -40 125 1
wrdata temp_pex.dat v(vref) i(vload) i(vdd) v(vbe) v(dvbe) v(pbias) v(pcasc)
quit
.endc
.end
